US04254260
To a solution of ethyl 2-aminothiazol-4-ylacetate (18.6 g.) in tetrahydrofuran (140 ml.) was added pyridine (11 g.), and to the mixture was dropwise added trifluoroacetic anhydride (23.1 g.) under ice-cooling and stirring. The mixture was further stirred for 2 hours at the same temperature, and then the solvent was distilled off. To the residue was added a mixture of ethyl acetate and water and ethyl acetate layer was separated. The ethyl acetate layer was washed with diluted hydrochloric acid and a sodium chloride aqueous solution in turn. After drying the ethyl acetate layer over magnesium sulfate, ethyl acetate was distilled off. To the remaining pale yellow solid was added n-hexane, and the solid was collected by filtration and dried to give ethyl 2-trifluoroacetamidothiazol-4-ylacetate (23.4 g.), mp 119°-121° C.

reactant | ethyl 2-aminothiazol-4-ylacetate | 18.6 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | pyridine | 11 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 23.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | ethyl 2-trifluoroacetamidothiazol-4-ylacetate | 23.4 g | FC(C(=O)NC=1SC=C(N1)CC(=O)OCC)(F)F | C9H9F3N2O3S
